US06121450
A mixture of aniline (3.0 g, 32 mmol) and crotonic acid (2.0 g, 23 mmol) in toluene (20 mL) was heated at reflux for 18 h. Removal of solvent and chromatography (silica gel, EtOAc/hexane, 9/1) of the crude material afforded 2.5 g (61%) of 3-phenylaminobutanoic acid. The acid was treated with PPA (20 mL) at 110° C. for 6 h and the reaction mixture was poured into ice water (50 mL) and then was neutralized with Na2CO3 to pH7. Extraction with EtOAc (3×60 mL) followed by chromatography (silica gel, EtOAc/hexane, 4/6) afforded 1.0 g (44%) of 1,2,3,4-tetrahydro-2-methyl-4-quinolinone (structure 59A of Scheme XLVIII, where R1 =R3 =H, R2 =methyl) as a yellow solid. The quinolinone was treated with di-tert-butyl dicarbonate (2.2 g, 10 mmol) and DMAP (0.84 g, 6.8 mmol) in THF (15 mL) for 16 h followed by chromatography (silica gel EtOAc/hexane, 2/8) to afford 1.1 g (68%) of 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2-methyl-4-quinolinone as a yellow oil. Data for 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2-methyl-4-quinolinone: 1H NMR (400 MHz, CDCl3) 7.99 (d, J=7.5, 1 H), 7.78 (d, J=7.5, 1 H), 7.50 (t, J=7.5, 1 H), 7.12 (t, J=7.5, 1 H), 5.10 (m, 1 H), 3.04 (dd, J=17.3, 5.8, 1 H), 2.57 (dd, J=17.3, 1.7, 1 H), 1.56 (s, 9 H), 1.22 (d, J=6.9, 3 H).

reactant | quinolinone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 6.8 mmol, 0.84 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-tert-butoxycarbonyl-1,2,3,4-tetrahydro-2-methyl-4-quinolinone | 1.1 g, 68% | C(C)(C)(C)OC(=O)N1C(CC(C2=CC=CC=C12)=O)C | C15H19NO3
